US04226611
Ethyl N-carbobenzoxy-N-(diisopropylthiophosphinylmethyl)glycine (2 g., 0.0044 mole) was reacted with 36% hydrogen bromide (8 ml) in glacial acetic acid. Ether was added and the oily precipitate was isolated by decanting the ether layer. The oil was washed with ether twice, then suspended in benzene and treated with propylene oxide. The solution was concentrated in vacuo to yield ethyl N-(diisopropylthiophosphinylmethyl)glycine (0.7 g., 0.0022 mole) as an oil, ND22 =1.5066.

reactant | Ethyl N-carbobenzoxy-N-(diisopropylthiophosphinylmethyl)glycine | 0.0044 mole, 2 g | C(C)C(N(CP(=S)(C(C)C)C(C)C)C(=O)OCC1=CC=CC=C1)C(=O)O | C19H30NO4PS
reactant | hydrogen bromide | 8 ml | Br | BrH
reactant | Ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl N-(diisopropylthiophosphinylmethyl)glycine | 0.0022 mole, 0.7 g | C(C)N(CC(=O)O)CP(=S)(C(C)C)C(C)C | C11H24NO2PS
